US05556861
1-Cyclopropyl-7-fluoro-8-(3-methyl-3-methylamino-1-azetidinyl)-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid was prepared under the conditions of Example 15, but starting with 1.58 g of 7,8-difluoro-1-cyclopropyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid and 2.34 g of 3-methyl-3-(methylamino)azetidine dimethanesulphonate. 1.57 g of 1-cyclopropyl-7-fluoro-8-(3-methyl-3-methylamino-1-azetidinyl)-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid are obtained in the form of a yellow solid, which decomposes at 330° C.

reactant | 7,8-difluoro-1-cyclopropyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid | 1.58 g | FC1=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)C2CC2)C=C1F | C16H10F2N2O3
reactant | 3-methyl-3-(methylamino)azetidine dimethanesulphonate | 2.34 g | CS(=O)(=O)O.CS(=O)(=O)O.CC1(CNC1)NC
product | 1-cyclopropyl-7-fluoro-8-(3-methyl-3-methylamino-1-azetidinyl)-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid | 1.57 g | C1(CC1)N1C=C(C(C=2C=C3C(=NC12)C=C(C(=C3)F)N3CC(C3)(NC)C)=O)C(=O)O | C21H21FN4O3
